US07163937B2
Benzyl (S)-1-((1S,2S,4R)-4-hydroxy-2-isopropylcyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (333 mg) was dissolved in CH2Cl2 (5 mL) and cooled to 0° C. prior to the addition of Dess-Martin reagent (678.9 mg). This solution was warmed to rt over 1 h, and then was cooled to 0° C. prior to the addition of more Dess-Martin reagent (260 mg). After 1 h at rt, the reaction was quenched with Et2O and 1N NaOH. The organic extracts were combined, washed with saturated Na2S2O3 and NaHCO3 solutions, dried (MgSO4), filtered, and concentrated to afford benzyl (S)-1-((1S,2S)-2-isopropyl-4-oxocyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (350 mg). MS found: (M+H)+=373.4.

reactant | Benzyl (S)-1-((1S,2S,4R)-4-hydroxy-2-isopropylcyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 333 mg | O[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O)C(C)C | C21H30N2O4
reactant | Dess-Martin reagent | 678.9 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin reagent | 260 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | benzyl (S)-1-((1S,2S)-2-isopropyl-4-oxocyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 350 mg | C(C)(C)[C@H]1[C@H](CCC(C1)=O)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C21H28N2O4
